US07384934B2
(S)-10-[3-(2-Methoxy-ethyl)-piperazin-1-yl]-2-isopropyl-4H-3-thia-4,9-diaza-benzo[f]azulene
Add 2-isopropyl-4H-3-thia-4,9-diaza-benzo[f]azulene-10-ylamine hydrochloride (0.32 g, 1.07 mmol) to a solution of (S)-2-(2-methoxy-ethyl)-piperazine (0.31 g, 2.15 mmol) in dimethyl sulfoxide: toluene (1:3, 4 mL). Add diisopropylethylamine (0.19 mL, 1.09 mmol), heat to 110° C. and stir. After an overnight period, cool to ambient temperature to give crude title compound.

reactant | 2-isopropyl-4H-3-thia-4,9-diaza-benzo[f]azulene-10-ylamine hydrochloride | 1.07 mmol, 0.32 g | Cl.C(C)(C)C1=CC=2C(=NC3=C(NC2S1)C=CC=C3)N
reactant | (S)-2-(2-methoxy-ethyl)-piperazine | 2.15 mmol, 0.31 g | COCC[C@@H]1NCCNC1 | C7H16N2O
reactant | diisopropylethylamine | 1.09 mmol, 0.19 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethyl sulfoxide toluene | 4 mL | CS(=O)C.C1(=CC=CC=C1)C
product | (S)-10-[3-(2-Methoxy-ethyl)-piperazin-1-yl]-2-isopropyl-4H-3-thia-4,9-diaza-benzo[f]azulene | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=CC13)C(C)C)C=CC=C2 | C21H28N4OS
